US05821261
Step G: (4R)-4-Guanidino-L-Proline Dihydrochloride
(4R)-1-(tert-Butyloxycarbonyl)-4-[N,N'-bis(tert-butyloxycarbonyl)guanidino]-L-proline tert-butyl ester (114 mg, 0.216 mmol) was treated with 4N HCl in dioxane (2 mL) for 48 hours at room temperature. The reaction mixture was evaporated under diminished pressure, coevaporated several times with diethyl ether and several times with methanol. The product was dried under high vacuum, and a quantitative yield of the title compound was obtained. Mass spectrum: m/z 173 (M+1); 400 MHz 1H NMR (CD3OD): δ2.49 (m, 1H); 2.58 (m, 1H); 3.40 (dd, 1H); 3.77 (dd, 1H); 4.42 (m, 1H); 4.66 (t, 1H).

reactant | (4R)-1-(tert-Butyloxycarbonyl)-4-[N,N'-bis(tert-butyloxycarbonyl)guanidino]-L-proline tert-butyl ester | 0.216 mmol, 114 mg | C(C)(C)(C)OC([C@H]1N(C[C@@H](C1)N(C(=NC(=O)OC(C)(C)C)N)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C)=O | C25H44N4O8
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | (4R)-4-Guanidino-L-Proline Dihydrochloride | quantitative yield | Cl.Cl.N(C(=N)N)[C@@H]1C[C@H](NC1)C(=O)O | InChI=1S/C6H12N4O2.2ClH/c7-6(8)10-3-1-4(5(11)12)9-2-3;;/h3-4,9H,1-2H2,(H,11,12)(H4,7,8,10);2*1H/t3-,4+;;/m1../s1
